* (exec-spice "ngspice %s" t)

v1  1 0  dc 2 ac 1
v2  200 0 dc=1

R1  1 2  1k
R2  2 0  1k tc1=0.001 ; tc2=1e-5

R10 1 20 1k
R20 20 0 '1k*v(200)' tc1=0.001 ; tc2=1e-5

.temp 127.0

.control
listing e

op
let gold = 2/(1+1000/1100)
print v(2) v(20) gold

noise v(2) v1 dec 1 1kHz 1kHz
let r = 1/(1/1000 + 1/1100)
let gold = sqrt(4*boltz*(273.15+127.0)*r)
print all gold

noise v(20) v1 dec 1 1kHz 1kHz
print all

ac dec 1 1kHz 1kHz
let gold = 1/(1+1000/1100)
print v(2) v(20) gold

.endc
